US08470841B2
2c. N-{3-[4-(5-Cyclopentyloxypyridin-2-yloxy)phenyl]-1-methylpropyl}acetamide
N-[3-(4-Hydroxyphenyl)-1-methylpropyl]acetamide (104.9 mg, 0.51 mmol), 2-chloro-5-cyclopentyloxypyridine (100 mg, 0.51 mmol) and sodium hydride (50% in oil) (26 mg, 0.54 mmol) were treated at 230° C. in 5 ml of N-methylpyrrolidinone in a microwave reactor for 1 h. Addition of a further 26 mg of sodium hydride was followed by again heating at 240° C. for 1 h. The reaction mixture was concentrated, and the residue was taken up in ethyl acetate and water. The organic phase was separated off, concentrated and purified by preparative HPLC (PR18, acetonitrile/water 0.1% TFA). Yield: 16 mg (9%), M+H+: 369.17.

reactant | N-[3-(4-Hydroxyphenyl)-1-methylpropyl]acetamide | 0.51 mmol, 104.9 mg | OC1=CC=C(C=C1)CCC(C)NC(C)=O | C12H17NO2
reactant | 2-chloro-5-cyclopentyloxypyridine | 0.51 mmol, 100 mg | ClC1=NC=C(C=C1)OC1CCCC1 | C10H12ClNO
reactant | sodium hydride | 0.54 mmol, 26 mg | [H-].[Na+]
reactant | sodium hydride | 26 mg | [H-].[Na+]
solvent | N-methylpyrrolidinone | 5 ml | CN1C(CCC1)=O | C5H9NO
product | N-{3-[4-(5-Cyclopentyloxypyridin-2-yloxy)phenyl]-1-methylpropyl}acetamide | C1(CCCC1)OC=1C=CC(=NC1)OC1=CC=C(C=C1)CCC(C)NC(C)=O | C22H28N2O3
